US05292747
A solution of 100 mg of 7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine]-2',5'-dione in 10 ml of THF was added dropwise to a suspension of 152 mg of lithium aluminium hydride in 20 ml of THF. After completion of the addition the mixture was heated at reflux for 20 hours. 20 ml of water were added to the cooled mixture and the resulting mixture was extracted with diethyl ether. The etheral extracts were washed with water, dried and concentrated. There were obtained 62 mg of 7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine].

reactant | 7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine]-2',5'-dione | 100 mg | N1C(C2(CC1=O)CC=1N(C3=CC=CC=C3C1)CC2)=O | C15H14N2O2
reactant | lithium aluminium hydride | 152 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 20 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 7,9-dihydrospiro[pyrido[1,2-a]indole-8(6H),3'-pyrrolidine] | 62 mg | N1CC2(CC1)CC=1N(C3=CC=CC=C3C1)CC2 | C15H18N2
